* CIRCUIT: ldo_regulator
* YAML: /home/idies/workspace/Storage/xyu1/persistent/ALIGN-public/simple_circuit_5/OpenManus/autosizer_plus/circuits_yaml/ldo_regulator.yaml
* Variables: ['W_pass', 'L_pass', 'W_diff', 'W_load', 'W_bias', 'L_amp']
* Trial values (midpoint): [500, 1.0, 40, 80, 10, 3.0]
* Metrics: ['vout', 'dropout_mv', 'line_reg_mv_per_v', 'load_reg_mv_per_ma', 'psrr_db', 'power_uw', 'fom']
* Class: unknown

* LDO Regulator
.lib ${SKY130_PDK} tt
.global VDD GND
.temp 27

* LDO Voltage Regulator
* Pass Transistor
XMPASS VOUT VGATE VDD_INTERNAL VDD sky130_fd_pr__pfet_01v8 l=1.0 w=500 m=10

* Error Amplifier - Differential Pair
XM1 VD1 VREF VTAIL GND sky130_fd_pr__nfet_01v8 l=3.0 w=40 m=4
XM2 VD2 VFB VTAIL GND sky130_fd_pr__nfet_01v8 l=3.0 w=40 m=4
XMTAIL VTAIL VBIAS GND GND sky130_fd_pr__nfet_01v8 l={3.0*2} w=10 m=4

* Error Amplifier - Active Load
XM3 VD1 VD1 VDD_INTERNAL VDD sky130_fd_pr__pfet_01v8 l=3.0 w=80 m=4
XM4 VD2 VD1 VDD_INTERNAL VDD sky130_fd_pr__pfet_01v8 l=3.0 w=80 m=4

* Output Driver
XM5 VGATE VD2 VDD_INTERNAL VDD sky130_fd_pr__pfet_01v8 l=3.0 w={80*4} m=4
XM6 VGATE VBIAS GND GND sky130_fd_pr__nfet_01v8 l={3.0*2} w={10*2} m=2

* Compensation
CC VGATE VOUT 5p

* Feedback Network
XR1 VOUT VFB VDD sky130_fd_pr__res_high_po_1p41 w=1.41 l=156
XR2 VFB GND VDD sky130_fd_pr__res_high_po_1p41 w=1.41 l=156

* Bias Circuit
XMBIAS VBIAS VBIAS GND GND sky130_fd_pr__nfet_01v8 l={3.0*4} w=10 m=1
RBIAS VDD_INTERNAL VBIAS {1.8/1e-5/10}

* Load
ILOAD VOUT GND DC 0.01
CLOAD VOUT GND 100p

* Supply and Reference
VREF VREF GND DC 0.6
VDD VDD GND DC 1.8


.control
set noaskquit
op
let vout = v(VOUT)
print vout
let power_uw = abs(i(VDD)) * 1.8 * 1e6
print power_uw
let dropout_mv = (1.8 - vout) * 1000
print dropout_mv

quit
.endc

.end