* CIRCUIT: nand_gate
* YAML: /home/idies/workspace/Storage/xyu1/persistent/ALIGN-public/simple_circuit_5/OpenManus/autosizer_plus/circuits_yaml/nand_gate.yaml
* Variables: ['W_pmos', 'W_nmos', 'L_pmos', 'L_nmos']
* Trial values (midpoint): [1.5, 1.0, 0.2, 0.2]
* Metrics: ['tphl_ps', 'tplh_ps', 'avg_delay_ps', 'power_total_uw', 'energy_per_transition_fj', 'noise_margin_high', 'noise_margin_low', 'fom']
* Class: unknown

* NAND Gate Testbench
.lib ${SKY130_PDK} tt
.global VDD GND
.temp 27

* 2-Input NAND Gate
* Y = NOT(A AND B)
* PMOS pull-up (parallel)
XMP1 Y A VDD VDD sky130_fd_pr__pfet_01v8 l=0.2 w=1.5
XMP2 Y B VDD VDD sky130_fd_pr__pfet_01v8 l=0.2 w=1.5

* NMOS pull-down (series)
XMN1 Y A N1 GND sky130_fd_pr__nfet_01v8 l=0.2 w=1.0
XMN2 N1 B GND GND sky130_fd_pr__nfet_01v8 l=0.2 w=1.0

* Load
CL Y GND 10e-15

* Supply
VDD VDD GND DC 1.8

* Input stimuli
VA A GND PULSE(0 1.8 0 10p 10p 1n 2n)
VB B GND DC 1.8

.control
set noaskquit
tran 1p 10n

let power = abs(i(VDD)) * 1.8
let power_total_uw = mean(power) * 1e6
print power_total_uw

meas tran vout_max MAX v(Y)
meas tran vout_min MIN v(Y)

meas tran tphl TRIG v(A) VAL=0.9 RISE=1 TARG v(Y) VAL=0.9 FALL=1
meas tran tplh TRIG v(A) VAL=0.9 FALL=1 TARG v(Y) VAL=0.9 RISE=1
let tphl_ps = tphl * 1e12
let tplh_ps = tplh * 1e12
let avg_delay_ps = (tphl_ps + tplh_ps) / 2
print tphl_ps tplh_ps avg_delay_ps

quit
.endc

.end